US08003651B2
To a 1 L round-bottom flask were added (R)-(+)-Pulegone (76.12 g, 0.5 mmol), anhydrous NaHCO3 (12.5 g) and anhydrous ether (500 mL). The reaction mixture was cooled with ice-bath under nitrogen. The bromine (25.62 mL, 0.5 mmol) was added dropwise over 30 minutes. The mixture was filtered and carefully added to NaOEt (21%, 412 mL, 1.11 mmol) in an ice-cooled bath. The mixture was stirred at room temperature overnight and then 1 L of 5% HCl and 300 mL of ether were added. The aqueous phase was extracted with ether (2×300 mL). The combined organic phase was washed with water, dried and concentrated. The residue was added to a warmed solution of semicarbazide hydrochloride (37.5 g) and NaOAc (37.5 g) in water (300 mL), and then boiling ethanol (300 mL) was added to give a clear solution. The mixture was refluxed for 2.5 hours and then stirred at room temperature overnight. The mixture was treated with 1 L of water and 300 mL of ether. The aqueous phase was extracted with ether (2×300 mL). The combined organic phase was washed with water, dried and concentrated. The residue was purified by vacuum distillation (73-76° C. at 0.8 mm Hg) to give (2R)-ethyl 2-methyl-5-(propan-2-ylidene)cyclopentanecarboxylate (63 g, 64%). 1H NMR (CDCl3, 400 MHz) δ 4.13 (m, 2H), 3.38 (d, J=16 Hz, 0.5H), 2.93 (m, 0.5H), 2.50-2.17 (m, 2H), 1.98 (m, 1H), 1.76 (m, 1H), 1.23 (m, 6H), 1.05 (m, 6H).

reactant | (R)-(+)-Pulegone | 0.5 mmol, 76.12 g | C[C@@H]1CCC(=C(C)C)C(=O)C1 | C10H16O
reactant | NaHCO3 | 12.5 g | C(=O)(O)[O-].[Na+]
reactant | HCl | 1 L | Cl | ClH
reactant | ether | 300 mL | CCOCC | C4H10O
reactant | ether | 300 mL | CCOCC | C4H10O
reactant | ether | 500 mL | CCOCC | C4H10O
catalyst | bromine | 0.5 mmol, 25.62 mL | BrBr | Br2
catalyst | NaOEt | 1.11 mmol, 412 mL | CC[O-].[Na+]
solvent | water | 1 L | O | H2O
product | (2R)-ethyl 2-methyl-5-(propan-2-ylidene)cyclopentanecarboxylate | 63 g, 64% | C[C@H]1C(C(CC1)=C(C)C)C(=O)OCC | C12H20O2
